US04002611
A solution of 3 g. of 2-methyl-3-phenyl-5-chloro-indole in a solvent mixture 7 ml. of toluene and 5 ml. of dimethylformamide is added to a suspension of 0.6 g. of 50% sodium hydride (in paraffin) in 5 ml. of toluene at 20° C. After the reaction mixture is stirred at 20° C. for one hour, a solution of 1.1 g. of chloroacetamide in 20 ml. of dimethylformamide is added thereto at 20° C., and the reaction mixture is stirred under reflux for 5 hours. The resultant mixture is diluted with water and is extracted with benzene. The organic layer is washed with water and dried over sodium sulfate. The solvent is removed to a residue, which is recrystallized from ethanol to give 1-carbamoylmethyl-2-methyl-3-phenyl-5-chloroindole, m.p. 223°-224° C.

reactant | 2-methyl-3-phenyl-5-chloro-indole | CC=1NC2=CC=C(C=C2C1C1=CC=CC=C1)Cl | C15H12ClN
reactant | sodium hydride | [H-].[Na+]
reactant | chloroacetamide | ClCC(=O)N | C2H4ClNO
solvent | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-carbamoylmethyl-2-methyl-3-phenyl-5-chloroindole | C(N)(=O)CN1C(=C(C2=CC(=CC=C12)Cl)C1=CC=CC=C1)C | C17H15ClN2O
